US07960562B2
At room temperature, sodium hydride (579 mg) was added to a THF (70 mL) suspension of (2R)-2-hydroxypropanimidamide hydrochloride (1.65 g), followed by heating up to 60° C. and stirring for 30 minutes. The reaction mixture was cooled to room temperature, and a THF (35 mL) solution of 5-[2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-(3-fluorophenyl)-3-oxopropanoyl]-2-fluorobenzenesulfonyl chloride (2.10 g) was added, followed by stirring for 20 minutes. Then, this was subjected to liquid-liquid separation with water and ethyl acetate added thereto, the organic layer was washed with saturated brine, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform/methanol=50/1) to obtain (2R)-N-({5-[2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-(3-fluorophenyl)-3-oxopropanoyl]-2-fluorophenyl}sulfonyl)-2-hydroxypropanimidamide (1.95 g).

reactant | sodium hydride | 579 mg | [H-].[Na+]
reactant | (2R)-2-hydroxypropanimidamide hydrochloride | 1.65 g | Cl.O[C@@H](C(N)=N)C
reactant | 5-[2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-(3-fluorophenyl)-3-oxopropanoyl]-2-fluorobenzenesulfonyl chloride | 2.10 g | N1C(NC2=C1C=CC=C2)=C(C(=O)C=2C=CC(=C(C2)S(=O)(=O)Cl)F)C(=O)C2=CC(=CC=C2)F | C22H13ClF2N2O4S
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | (2R)-N-({5-[2-(1,3-dihydro-2H-benzimidazol-2-ylidene)-3-(3-fluorophenyl)-3-oxopropanoyl]-2-fluorophenyl}sulfonyl)-2-hydroxypropanimidamide | 1.95 g | N1C(NC2=C1C=CC=C2)=C(C(=O)C=2C=CC(=C(C2)S(=O)(=O)NC([C@@H](C)O)=N)F)C(=O)C2=CC(=CC=C2)F | C25H20F2N4O5S
